US07495007B2
Preparation of intermediate 2-(tert-butyl-dimethyl-silanyloxy)-5-chloro-benzaldehyde
To a solution of 5-chloro-2-hydroxy-benzaldehyde (9.3 g) in DMF (45 mL) was added DIPEA (20 mL) and tert-butyl-chloro-dimethyl-silane (19 g). The mixture was stirred at room temperature for 1.5 h. Then the mixture was poured into ice water (200 mL), extracted with ether (2×100 mL). The combined organic layers were washed with brine, dried over Na2SO4. The solvent was removed to give the title compound which was used directly for next step.

reactant | 5-chloro-2-hydroxy-benzaldehyde | 9.3 g | ClC=1C=CC(=C(C=O)C1)O | C7H5ClO2
reactant | DIPEA | 20 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | tert-butyl-chloro-dimethyl-silane | 19 g | C(C)(C)(C)[Si](C)(C)Cl | C6H15ClSi
solvent | DMF | 45 mL | CN(C)C=O | C3H7NO
product | 2-(tert-butyl-dimethyl-silanyloxy)-5-chloro-benzaldehyde | C(C)(C)(C)[Si](OC1=C(C=O)C=C(C=C1)Cl)(C)C | C13H19ClO2Si
